US04536402
(E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide
7.6 gm (0.003 mol) of (E)-2-[(amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one and 13.75 gm (0.03 mol) of tetrabutylammonium periodate (prepared from tetrabutylammonium hydrogen sulfate and sodium metaperiodate in water) in 50 ml of dichloromethane were refluxed for about 2 hours. After the end of the reaction, which was monitored by thin-layer chromatography, the mixture was allowed to cool and was then filtered through a column of silicagel (200 gm), finally using dichloromethane/ethyl acetate (97:3 v/v) as the eluant. By evaporating the appropriate fractions and subsequently recrystallizing the residue from ethanol, 5.8 gm (72% of theory) of pale yellow crystals, m.p. 246°-247° C. (decomposition), were obtained.

reactant | (E)-2-[(amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one | 0.003 mol, 7.6 gm | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NOS
reactant | tetrabutylammonium periodate | 0.03 mol, 13.75 gm | I(=O)(=O)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide | N\C(=C\1/C(C2=C(S1=O)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NO2S
